US07001900B2
KOH (406 mg, 7.3 mmol) is added to a suspension of 7-benzyloxy-2-naphthonitrile (626 mg; 2.42 mmol) in water, ethanol, and toluene (15 mL, 1:3:2). The reaction is heated to 80° C. for 72 hours. The reaction is allowed to cool, poured into 1M HCl and extracted three times with CH2Cl2. The combined organic layers are dried (Na2SO4), filtered and concentrated to dryness. The product is purified by column chromatography (step gradient, 5 to 10% methanol in CH2Cl2). The resulting material is crystallized from ethanol-water to give 7-benzyloxy-2-naphthoic acid (484 mg, 72%) as a white solid. HRMS (EI) calculated for C18H14O3: 278.0943, found 278.0947.

reactant | KOH | 7.3 mmol, 406 mg | [OH-].[K+]
reactant | 7-benzyloxy-2-naphthonitrile | 2.42 mmol, 626 mg | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=CC2=C1)C#N | C18H13NO
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 1M | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 7-benzyloxy-2-naphthoic acid | 484 mg, 72% | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=CC2=C1)C(=O)O | C18H14O3
